US07625938B2
Quinoxaline-6-carboxylic acid
To a solution of methyl quinoxaline-6-carboxylate (500 mg, 2.66 mmol) in 10 mL of THF was added sodium hydroxide (5N, 2.5 mL, 12.5 mmol) followed by methanol (2.5 mL). The reaction was stirred at room temperature overnight and then concentrated in vacuo to remove THF/MeOH. The resulting aqueous mixture was acidified with 1N HCl until the pH was slightly acidic (pH=5). The resulting solution was extracted with EtOAc (3×), and the combined organic layers were then washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The resulting white solid was used without further purification. LC-MS: 3.50 min. (M+H)=175.16.

reactant | methyl quinoxaline-6-carboxylate | 2.66 mmol, 500 mg | N1=CC=NC2=CC(=CC=C12)C(=O)OC | C10H8N2O2
reactant | sodium hydroxide | 12.5 mmol, 5N, 2.5 mL | [OH-].[Na+]
reactant | methanol | 2.5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Quinoxaline-6-carboxylic acid | N1=CC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O2
